US04833136
7-(2-Hydroxyethylamino)-3,5-dimethyl-2-phenylpyrazolo[4,3-b]pyridine (E13)
A mixture of ethanolamine (1.0 ml) and 7-chloro-3,5-dimethyl-2-phenylpyrazolo[4,3-b]pyridine (0.080 g) in dry xylene (5 ml) was heated under reflux for 48 h. After cooling, the resulting brown oil solidified. The solvent was decanted off and the solid washed several times with xylene. The brown solid was dissolved in aqueous methanol and the pH adjusted to pH 8-9 with 10% sodium carbonate solution. The resulting solid was filtered off, dried and recrystallised from chloroform/pentane to give the title compound as a beige solid (0.029 g), m.p. 159°-161° C.

reactant | ethanolamine | 1.0 ml | C(O)CN | C2H7NO
reactant | 7-chloro-3,5-dimethyl-2-phenylpyrazolo[4,3-b]pyridine | 0.080 g | ClC=1C=2C(N=C(C1)C)=C(N(N2)C2=CC=CC=C2)C | C14H12ClN3
solvent | xylene | 5 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 7-(2-Hydroxyethylamino)-3,5-dimethyl-2-phenylpyrazolo[4,3-b]pyridine | 0.029 g | OCCNC=1C=2C(N=C(C1)C)=C(N(N2)C2=CC=CC=C2)C | C16H18N4O
